US07064131B2
[6-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-pyridin-2-yl]-acetic acid
Heat [6-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-pyridin-2-yl]-acetic acid ethyl ester (0.359 g, 0.9 mmol), MeOH (4.5 ml), THF (0.5ml), and 1N NaOH (1.8 ml, 1.8 mmol) at 50° C. for 2 h. Cool to room temperature, dilute with H2O, and acidify (conc. HCl) to less than pH 3. Extract with EtOAc twice and wash the combined extracts (H2O then brine), dry (MgSO4), filter, and concentrate giving the title compound (0.338 g, 100%). Use this material without further purification. Mass Spectrum (FIA) (m/z) 370.0 [M+1]

reactant | [6-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-pyridin-2-yl]-acetic acid ethyl ester | 0.9 mmol, 0.359 g | C(C)OC(CC1=NC(=CC=C1)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O)=O | C20H16ClN3O4
reactant | MeOH | 4.5 ml | CO | CH4O
reactant | NaOH | 1.8 mmol, 1N, 1.8 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | H2O | O | H2O
solvent | THF | 0.5ml | C1CCOC1 | C4H8O
product | [6-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-pyridin-2-yl]-acetic acid | 0.338 g, 100% | ClC=1C=2C=3C(C(N(C2C=CC1)C1=CC=CC(=N1)CC(=O)O)=O)=C(ON3)C | C18H12ClN3O4
